US05773463
(±) cis 2-Amino-1-indanol
A suspension of (±) cis 3,3a,4,8b-tetrahydroindeno[2,1 -d]oxazol-2-one (Preparation 27) (5.73 g, 0.033 mol) in a mixture of ethanol (100 ml) and water (20 ml) was treated with sodium hydroxide pellets (8.0 g, 0.2 mol). After stirring at room temperature until the sodium hyroxide pellets had dissolved the mixture was heated under reflux in an argon atmosphere for 5 h. The solution was concentrated in vacuo to approximately one quarter the original volume then diluted with brine (50 ml) and extracted into chloroform (3×100 ml). The combined organic extracts were dried over Na2SO4 and then concentrated in vacuo to give a brown solid (4.74 g) which was crystallised from i-propanol-diethyl ether to give the title compound as a colourless solid (3.5 g, 72%) m.p. 104.5°-106° C. Mother liquors afforded a further 0.41 g, m.p. 103.5°-105° C.

reactant | (±) cis 3,3a,4,8b-tetrahydroindeno[2,1 -d]oxazol-2-one | 0.033 mol, 5.73 g | O1C(N[C@H]2[C@@H]1C1=CC=CC=C1C2)=O | C10H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | (±) cis 2-Amino-1-indanol | 4.74 g | N[C@@H]1[C@@H](C2=CC=CC=C2C1)O | C9H11NO
